US07354917B2
(i) 7-(2-{1-[2-(4-Cyanophenoxy)ethyl]ureido}ethyl)-9-oxa-3,7-diazabicyclo-[3.3.1]nonane-3-carboxylic acid tert-butyl ester
A mixture of toluene-4-sulfonic acid 2-{1-[2-(4-cyanophenoxy)ethyl]-ureido}ethyl ester (15 g, 0.0372 mol, 1.0 eq.; see Preparation D above), 9-oxa-3,7-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester (8.525 g, 0.0372 mol, 1.0 eq.; see WO 01/28992), fused K2CO3 (7.7 g, 0.0558 mol, 1.5 eq.) and lithium bromide (9.6 g, 0.1116 mol, 3.0 eq.) in dry acetonitrile (350 mL) was heated to 40° C. under N2 for 4 days. The reaction was cooled to rt, filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by column chromatography over silica gel, using 3% methanol and DCM as eluent, to yield the sub-title compound as a white solid. Yield: 7 g, 40.9%.

reactant | toluene-4-sulfonic acid 2-{1-[2-(4-cyanophenoxy)ethyl]-ureido}ethyl ester | 0.0372 mol, 15 g, 1.0 eq. | C(#N)C1=CC=C(OCCN(C(=O)N)CCOS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C19H21N3O5S
reactant | 9-oxa-3,7-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester | 0.0372 mol, 8.525 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CC2CNCC(C1)O2 | C11H20N2O3
reactant | K2CO3 | 0.0558 mol, 7.7 g, 1.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | lithium bromide | 0.1116 mol, 9.6 g, 3.0 eq. | [Br-].[Li+]
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
product | 7-(2-{1-[2-(4-Cyanophenoxy)ethyl]ureido}ethyl)-9-oxa-3,7-diazabicyclo-[3.3.1]nonane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC(C1)O2)CCN(C(=O)N)CCOC2=CC=C(C=C2)C#N | C23H33N5O5
